US06022884
Step A: 2-(4-Chloro-2-methyl-phenoxy)-5-nitropyridine
4-Chloro-2-methylphenol (101 mg, 0.71 mmol) was dissolved in tetrahydrofuran (2.1 mL) and the solution was treated with sodium hydride (60% dispersed in mineral oil, 31 mg, 0.78 mmol). After stirring for 30 minutes at 22° C., 2-chloro-5-nitropyridine (101 mg, 0.64 mmol) was added and the reaction mixture was heated to reflux for 1 hour. The solution was cooled to ambient temperature, quenched with saturated aqueous NH4Cl and concentrated in vacuo. The residue was redissolved in ethyl acetate then washed 2× with saturated NaHCO3, saturated NaCl, dried over anhydrous Na2SO4 and concentrated in vacuo.

reactant | 4-Chloro-2-methylphenol | 0.71 mmol, 101 mg | ClC1=CC(=C(C=C1)O)C | C7H7ClO
reactant | sodium hydride | 0.78 mmol, 31 mg | [H-].[Na+]
reactant | 2-chloro-5-nitropyridine | 0.64 mmol, 101 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | tetrahydrofuran | 2.1 mL | O1CCCC1 | C4H8O
product | 2-(4-Chloro-2-methyl-phenoxy)-5-nitropyridine | ClC1=CC(=C(OC2=NC=C(C=C2)[N+](=O)[O-])C=C1)C | C12H9ClN2O3
